US20010016659A1
To a solution of ethyl 4-isocyanatobenzoate (3.14 g, 16.4 mmol) in CH2Cl2(30 mL) was added 4-chloro-3-(trifluoromethyl)aniline (3.21 g, 16.4 nimol), and the solution was stirred at room temp. overnight. The resulting slurry was diluted with CH2Cl2(50 mL) and filtered to afford N-(4-chloro-3-(trifluoromethyl)phenyl)-N′-(4-ethoxycarbonylphenyl) urea as a white solid (5.93 g, 97%): TLC (40% EtOAc/60% hexane) Rf 0.44.

reactant | ethyl 4-isocyanatobenzoate | 16.4 mmol, 3.14 g | N(=C=O)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO3
reactant | 4-chloro-3-(trifluoromethyl)aniline | 3.21 g | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-(trifluoromethyl)phenyl)-N′-(4-ethoxycarbonylphenyl) urea | 5.93 g, 97% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)OCC)C(F)(F)F | C17H14ClF3N2O3
